US07691892B2
h) 4-{1-[2-(5-Chloro-2-fluoro-phenyl)-2H-tetrazol-5-yl]-ethyl}-piperazine-1-carboxylic acid ethyl ester
The title compound (25.2 mg, 72%, yellow oil, ˜90% pure) was prepared from methanesulfonic acid 1-[2-(5-chloro-2-fluoro-phenyl)-2H-tetrazol-5-yl]-ethyl ester (˜29.5 mg, 0.09 mmol) using potassium carbonate (38 mg, 0.27 mmol) and 1-ethoxycarbonyl piperazine (20 uL, 0.14 mmol) in acetonitrile (1.5 mL) at 80° C. overnight. The product was purified by chromatography using a silica SPE tube (25-35% ethyl acetate in hexane). 1H NMR (CDCl3) δ (ppm): 7.91 (dd, 1H), 7.51 (ddd, 1H), 7.33 (t, 1H), 4.32 (q, 1H), 4.11 (q, 2H), 3.52 (m, 4H), 2.61 (m, 2H), 2.51 (m, 2H), 1.65 (d, 3H), 1.24 (t, 3H).

reactant | methanesulfonic acid 1-[2-(5-chloro-2-fluoro-phenyl)-2H-tetrazol-5-yl]-ethyl ester | 0.09 mmol, ˜29.5 mg | ClC=1C=CC(=C(C1)N1N=C(N=N1)C(C)OS(=O)(=O)C)F | C10H10ClFN4O3S
reactant | potassium carbonate | 0.27 mmol, 38 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-ethoxycarbonyl piperazine | 0.14 mmol, 20 uL | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 4-{1-[2-(5-Chloro-2-fluoro-phenyl)-2H-tetrazol-5-yl]-ethyl}-piperazine-1-carboxylic acid ethyl ester | 25.2 mg | C(C)OC(=O)N1CCN(CC1)C(C)C=1N=NN(N1)C1=C(C=CC(=C1)Cl)F | C16H20ClFN6O2
